US05151459
N,N,N',N'-Tetraphenyl-2-butyne-1,4-diamine
A vigorously stirred mixture of diphenylamine (174 g, 1.03 mol) and 1,4-dichlorobut-2-yne (23 g, 0.19 mol) is heated at 85° C. for 72 hours. The black mixture is allowed to cool to room temperature and is then taken up in diethyl ether. Diphenylamine hydrochloride is removed by filtration and the solvent is removed in vacuo leaving a black oil. The oil is extracted with several 200 ml portions of hot hexane. The extracts are allowed to stand whereupon a solid crystallizes. The solid is collected and is then recrystallized from hexane to give 21 g (29% yield) of the title compound as a tan solid melting at 84°-86° C.

reactant | diphenylamine | 1.03 mol, 174 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | 1,4-dichlorobut-2-yne | 0.19 mol, 23 g | ClCC#CCCl | C4H4Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N,N,N',N'-Tetraphenyl-2-butyne-1,4-diamine | 21 g, 29% yield | C1(=CC=CC=C1)N(CC#CCN(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H24N2
